
*
.include 180nm_model.txt
.include inv.txt

vclk clk 0 pulse(0 1.8 0n 0.1n 0.1n 2n 4n)
vd din 0 pulse(0 1.8 0n 0.1n 0.1n 10n 20n)

Xinv1 din dbar inv
Xinv2 clk clkbr inv
MN0 dbar clk x 0 N_180 w=4u l=.18u
MN1 dbar clkbr y 0 N_180 w=4u l=.18u


Xinv3 x xbar inv
Xinv4 y ybar inv

MN2 xbar clkbr g 0 N_180 w=4u l=.18u
MN3 ybar clk g 0 N_180 w=4u l=.18u

Xinv5 g Qbar inv
Xinv6 Qbar Q inv

.trans 0 25n

.measure tran tpra
+ TRIG V(clk) VAL = '1.8/2' RISE = 1
+ TARG V(Q) VAL = '1.8/2' FALL = 1
.measure tran tpfa
+ TRIG V(clk) VAL = '1.8/2' FALL = 1
+ TARG V(Q) VAL = '1.8/2' RISE = 1

.meas tran avg_tpda param=(tpra+tpfa)/2p
.meas tran vd param = v(din)
.MEAS TRAN avgcurr AVG Ix(inv2:S) FROM = 11.9983ns TO = 12.1021ns
.measure tran Power_dissipation param = (v(din)*avgcurr)
