
*
.include 180nm_model.txt
.include inv.txt
.include tg.txt

va A 0 pulse(0 1.8 1n 0.1n 0.1n 20n 40n)
vb B 0 pulse(0 1.8 2n 0.1n 0.1n 10n 20n)

Xinv1 A Abar inv
Xtg1 Abar B out tg

Xinv2 B Bbar inv
Xtg2 Bbar Bbar out tg

.trans 0 100n
